US07846925B2
4-Methyl-3,4-dihydro-2H-benzo[1,4]oxazine dissolved in 200 ul DMF under Argon. POCl3 was added under Argon. The reaction was heated and a closed vial at 90° C. for 75 min. 1 ml of NaAc in water was added and stirred while a brown oil was formed. The oil was extracted with DCM. The organic layer was washed with brine, dried and evaporated to dryness, affording 0.18 g (76%) of 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazine-7-carbaldehyde as colourless solid.

reactant | 4-Methyl-3,4-dihydro-2H-benzo[1,4]oxazine | CN1CCOC2=C1C=CC=C2 | C9H11NO
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 200 ul | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-methyl-3,4-dihydro-2H-benzo[1,4]oxazine-7-carbaldehyde | 0.18 g, 76% | CN1CCOC2=C1C=CC(=C2)C=O | C10H11NO2
